US07595324B2
2-Chloro-N-mesitylthieno[2,3-d]pyrimidin-4-amine
To a solution of 2,4-dichlorothieno[2,3-d]pyrimidine (805 mg, 3.94 mmol), TFA (0.91 mL, 11.82 mmol) in TFE (11 mL) was added 2,4,6-trimethylaniline (0.15 mg, 1.1 mmol) in a sealed tube. The reaction was stirred at 90° C. for 2 d. Reaction mixture was diluted with CH2Cl2 and washed with saturated NaHCO3 (3×20 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by HPLC to afford the product as a white solid (43.4 mg, 36%):

reactant | 2,4-dichlorothieno[2,3-d]pyrimidine | 3.94 mmol, 805 mg | ClC=1N=C(C2=C(N1)SC=C2)Cl | C6H2Cl2N2S
reactant | TFA | 11.82 mmol, 0.91 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 2,4,6-trimethylaniline | 1.1 mmol, 0.15 mg | CC1=C(N)C(=CC(=C1)C)C | C9H13N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-Chloro-N-mesitylthieno[2,3-d]pyrimidin-4-amine | 43.4 mg, 36% | ClC=1N=C(C2=C(N1)SC=C2)NC2=C(C=C(C=C2C)C)C | C15H14ClN3S
